US04382090
A reaction mixture was prepared containing 15.5 g. of dimethylaminothioacetamide hydrochloride, 20.5 g. of ethyl bromopyruvate and 100 ml. of ethanol. The reaction mixture was heated to refluxing temperature for about four hours after which time the solvent was removed in vacuo in a rotary evaporator. The residue, containing ethyl 2-dimethylaminomethyl-4-thiazolecarboxylate formed in the above reaction, was dissolved in a mixture of ether and water. The aqueous layer was separated. The ether layer was extracted with an equal volume of water and then discarded. The two aqueous layers were combined and washed with ether. The ether layer was again discarded and the aqueous layer cooled to a temperature in the range of 0°-5° C. Solid potassium carbonate was added until the aqueous layer gave a basic reaction to litmus. An oil separated comprising ethyl 2-dimethylaminomethyl-4-thiazolecarboxylate free base. The oily layer was extracted with ether and the ether extract separated and dried. The ether was removed by evaporation in vacuo. The resulting residue was purified by gradient high pressure liquid chromatography (silica ethyl acetate). Ethyl 2-dimethylaminomethyl-4-thiazolecarboxylate thus obtained had the following physical characteristics:

reactant | dimethylaminothioacetamide hydrochloride | Cl.CN(C)CC(=S)N
reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | Ethyl 2-dimethylaminomethyl-4-thiazolecarboxylate | CN(C)CC=1SC=C(N1)C(=O)OCC | C9H14N2O2S
